US09107923B2
Step 6. Synthesis of 2-chloro-3-cyclopropylpyridine (C6)
To a mixture of 2-chloro-3-iodopyridine (2.39 g, 9.98 mmol), cyclopropylboronic acid (860 mg, 10 mmol) and potassium carbonate (4.14 g, 30.0 mmol) in 1,4-dioxane (50 mL) was added tetrakis(triphenylphosphine)palladium(0) (1.16 g, 1.00 mmol). The reaction mixture was stirred at 120° C. for 4 hours, then diluted with ethyl acetate (50 mL) and filtered. The filtrate was concentrated and the residue was purified by silica gel chromatography (Gradient: 10% to 30% ethyl acetate in petroleum ether) to afford the product as a colorless oil. Yield: 1 g, 6 mmol, 60%. 1H NMR (400 MHz, CDCl3) δ 8.20 (dd, J=4.7, 1.8 Hz, 1H), 7.24-7.28 (m, 1H), 7.14 (br dd, J=7.6, 4.8 Hz, 1H), 2.12-2.21 (m, 1H), 1.04-1.11 (m, 2H), 0.67-0.72 (m, 2H).

reactant | 2-chloro-3-iodopyridine | 9.98 mmol, 2.39 g | ClC1=NC=CC=C1I | C5H3ClIN
reactant | cyclopropylboronic acid | 10 mmol, 860 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium carbonate | 30.0 mmol, 4.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.00 mmol, 1.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-3-cyclopropylpyridine | ClC1=NC=CC=C1C1CC1 | C8H8ClN
